US04011334
A mixture of 57.2 g (0.14 mole) of 5-(3,7,11,15-tetramethylhexadecyloxy)-2furoic acid in 300 ml of thionyl chloride is heated to reflux for 1 hour, and the excess thionyl chloride is removed by distillation to give 5-(3,7,11,15-tetramethylhexadecyloxy)-2-furancarboxylic acid chloride with is combined with 2.8 g of 2% palladium-BaSO4 catalyst, 0.6 g of quinoline-sulfur in 800 ml of xylene. A slow stream of hydrogen gas is passed through the mixture until hydrogen chloride is no longer evolved (about 8 hours). After cooling, the catalyst is removed by centrifuging, and the solvent is removed under reduced pressure. The residue is distilled to give 5-(3,7,11,15-tetramethylhexadecyloxy)-2-furancarboxaldehyde.

reactant | 5-(3,7,11,15-tetramethylhexadecyloxy)-2furoic acid | 0.14 mole, 57.2 g | CC(CCOC1=CC=C(O1)C(=O)O)CCCC(CCCC(CCCC(C)C)C)C | C25H44O4
reactant | thionyl chloride | 300 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-(3,7,11,15-tetramethylhexadecyloxy)-2-furancarboxylic acid chloride | CC(CCOC1=CC=C(O1)C(=O)Cl)CCCC(CCCC(CCCC(C)C)C)C | C25H43ClO3
